US08466186B2
(b) Tert-butyl 3-amino-4-chlorobenzylcarbamate
Sat. aq. NH4Cl (50 mL) followed by iron powder (5.51 g, 98.7 mmol) were added at rt to a mixture of tert-butyl 4-chloro-3-nitrobenzylcarbamate (5.66 g, 19.7 mmol) and EtOH (50 mL). After stirring for 4 h at 80° C., 4 h at 90° C. and at rt overnight the reaction mixture was filtered through celite and washed with EtOAc. The aq. layer was extracted with EtOAc. The combined extracts were washed with brine, dried over Na2SO4 and concentrated to give the sub-title compound.

reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
reactant | tert-butyl 4-chloro-3-nitrobenzylcarbamate | 19.7 mmol, 5.66 g | ClC1=C(C=C(CNC(OC(C)(C)C)=O)C=C1)[N+](=O)[O-] | C12H15ClN2O4
catalyst | iron | 98.7 mmol, 5.51 g | [Fe] | Fe
solvent | EtOH | 50 mL | CCO | C2H6O
product | Tert-butyl 3-amino-4-chlorobenzylcarbamate | NC=1C=C(CNC(OC(C)(C)C)=O)C=CC1Cl | C12H17ClN2O2
